US08058045B2
tert-Butyl 3-((5-amino-2-(5-cyanopyrazin-2-ylamino)pyridin-4-ylamino)methyl)piperidine-1-carboxylate (121 mg, 0.285 mmol) was dissolved in DCE (6 mL) and 2,5-dimethoxytetrahydrofuran (75.3 mg, 0.57 mmol) and acetic acid (2 mL) were added. The solution was heated for 1 h at 80° C. then a further aliquot of acetic acid (2 mL) was added. The solution was heated at 80° C. for a further 30 min then cooled to room temperature and partitioned between dichloromethane and water. The aqueous phase was extracted with dichloromethane and the combined organic phases were evaporated to give an orange oil. The residue was dissolved in methanol and absorbed onto a TsOH solid phase extraction cartridge, washed once with methanol and allowed to stand for 1 h. The cartridge was then eluted with a solution of 7M ammonia in methanol and the solution was evaporated to dryness. The residue was purified by HPLC to give 5-(4-(piperidin-3-ylmethylamino)-5-(1H-pyrrol-1-yl)pyridin-2-ylamino)pyrazine-2-carbonitrile (4.3 mg, 4%).

reactant | tert-Butyl 3-((5-amino-2-(5-cyanopyrazin-2-ylamino)pyridin-4-ylamino)methyl)piperidine-1-carboxylate | 0.285 mmol, 121 mg | NC=1C(=CC(=NC1)NC1=NC=C(N=C1)C#N)NCC1CN(CCC1)C(=O)OC(C)(C)C | C21H28N8O2
reactant | 2,5-dimethoxytetrahydrofuran | 0.57 mmol, 75.3 mg | COC1OC(CC1)OC | C6H12O3
reactant | acetic acid | 2 mL | C(C)(=O)O | C2H4O2
reactant | acetic acid | 2 mL | C(C)(=O)O | C2H4O2
solvent | DCE | 6 mL | ClCCCl | C2H4Cl2
solvent | methanol | CO | CH4O
product | 5-(4-(piperidin-3-ylmethylamino)-5-(1H-pyrrol-1-yl)pyridin-2-ylamino)pyrazine-2-carbonitrile | 4.3 mg, 4% | N1CC(CCC1)CNC1=CC(=NC=C1N1C=CC=C1)NC=1N=CC(=NC1)C#N | C20H22N8
